US08198456B2
A mixture of 3-fluoro-2-pyridinecarboxaldehyde (4 g, 32 mmol) and hydrazine (20.5 g) was kept at 115° C. for 7 hr, then cooled to rt. The reaction mixture was diluted with water and extracted with EtOAc. The organic phases were combined, washed with brine, and dried. Concentration followed by flash chromatography afforded 1H-pyrazolo[4,3-b]pyridine (2.3 g, 60.4%).

reactant | 3-fluoro-2-pyridinecarboxaldehyde | 32 mmol, 4 g | FC=1C(=NC=CC1)C=O | C6H4FNO
reactant | hydrazine | 20.5 g | NN | H4N2
solvent | water | O | H2O
product | 1H-pyrazolo[4,3-b]pyridine | 2.3 g, 60.4% | N1N=CC2=NC=CC=C21 | C6H5N3
